US07488844B2
(ii) Ethyl(2S)-3-(4-{2-[(4-tert-butylbenzyl)(4-chlorobenzyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate
To a solution of {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid (0.889 g, 3.00 mmol) in methylene chloride (30 mL) were added N-(4-tert-butylbenzyl)-N-(4-chlorobenzyl)amine (1.04 g, 3.60 mmol), N,N-diisopropylethylamine (1.20 mL, 6.9 mmol) and O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (1.01 g, 3.15 mmol) and the reaction mixture was stirred at room temperature overnight. The resulting solution was diluted with methylene chloride (220 mL) and the organic phase was washed with 2 M HCl (3×50 mL), saturated aqueous NaHCO3 (2×50 mL), and brine (50 mL), dried over Na2SO4, and concentrated in vacuo. Twice repeated purification on prepacked columns of silica gel (Isolute® SPE Column, 50 g/150 mL) with methanol (0-2% gradient) in methylene chloride as the eluent and collection of pure fractions yielded 0.459 g (27%) of a whitish oil.

reactant | {4-[(2S)-2,3-diethoxy-3-oxopropyl]phenoxy}acetic acid | 3.00 mmol, 0.889 g | C(C)O[C@@H](CC1=CC=C(OCC(=O)O)C=C1)C(=O)OCC | C15H20O6
reactant | N-(4-tert-butylbenzyl)-N-(4-chlorobenzyl)amine | 3.60 mmol, 1.04 g | C(C)(C)(C)C1=CC=C(CNCC2=CC=C(C=C2)Cl)C=C1 | C18H22ClN
reactant | N,N-diisopropylethylamine | 6.9 mmol, 1.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 3.15 mmol, 1.01 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 220 mL | C(Cl)Cl | CH2Cl2
product | Ethyl(2S)-3-(4-{2-[(4-tert-butylbenzyl)(4-chlorobenzyl)amino]-2-oxoethoxy}phenyl)-2-ethoxypropanoate | 0.459 g, 27% | C(C)(C)(C)C1=CC=C(CN(C(COC2=CC=C(C=C2)C[C@@H](C(=O)OCC)OCC)=O)CC2=CC=C(C=C2)Cl)C=C1 | C33H40ClNO5
